US05366987
(a) 5-(2-Pyridylmethyl)-1H-tetrazole
2-Pyridylacetonitrile (10.0 g; 0.084 moles) was dissolved in p-dioxane (200 mL) and then treated with tributyltin azide (30.9 g; 0.093 moles) in one portion. The solution was refluxed for 20 hours, cooled to room temperature, and then concentrated in vacuo. The viscous syrup was taken up in ethyl ether and treated with gaseous HCl for over 15 minutes, affording a maroon-colored precipitate that was recrystallized from ethanol. Yield: 9.1 g (55%).

reactant | 2-Pyridylacetonitrile | 0.084 moles, 10.0 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | tributyltin azide | 0.093 moles, 30.9 g | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
solvent | p-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 5-(2-Pyridylmethyl)-1H-tetrazole | N1=C(C=CC=C1)CC1=NN=NN1 | C7H7N5
